US07605269B2
To a stirred suspension of K-tert.-butylate (281 mg, 2.5 mmol), hydroxylamine hydrochloride (208 mg, 3.0 mmol) in methanol (4 mL) is added (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopro-pa[a]pentalene-4-carbonitrile (203 mg, 1.0 mmol). The reaction mixture is stirred at rt for 5 h before it is filtered. The filtrate is purified by prep. HPLC (Water XTerrra Prep MS C18 30×75 mm, 10% to 95% acetonitrile in water containing 0.5% sat. aq. NH3) to give (1aS,5aR)-N-hydroxy-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxamidine (200 mg) as a colourless solid; LC-MS: tR=0.72 min, [M+1]+=237.09.

reactant | hydroxylamine hydrochloride | 3.0 mmol, 208 mg | Cl.NO
reactant | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopro-pa[a]pentalene-4-carbonitrile | 1.0 mmol, 203 mg | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C#N)C | C12H13NS
solvent | methanol | 4 mL | CO | CH4O
product | (1aS,5aR)-N-hydroxy-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxamidine | 200 mg | ONC(=N)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C12H16N2OS
